US05935956
2-(4-Chlorophenyl)-4,4a,5,6-tetrahydropyrido[3,2-h]cinnolin-3(2H)-one
Prepared according to the method described in Example 1 from methyl 5,6,7,8-tetrahydro-8-oxoquinoline-7-acetate (prepared from 6,7-dihydroquinoline-8(5H)-one according to the method of Wu et al supra) and 4-chlorophenylhydrazine.

reactant | methyl 5,6,7,8-tetrahydro-8-oxoquinoline-7-acetate | O=C1C(CCC=2C=CC=NC12)CC(=O)OC | C12H13NO3
reactant | 6,7-dihydroquinoline-8(5H)-one | N1=CC=CC=2CCCC(C12)=O | C9H9NO
reactant | 4-chlorophenylhydrazine | ClC1=CC=C(C=C1)NN | C6H7ClN2
product | 2-(4-Chlorophenyl)-4,4a,5,6-tetrahydropyrido[3,2-h]cinnolin-3(2H)-one | ClC1=CC=C(C=C1)N1N=C2C3=C(CCC2CC1=O)C=CC=N3 | C17H14ClN3O
